US07732438B2
Step A: tert-Butyl [(3R,6S)-6-(2,3-difluorophenyl)-2-thioxo-1-(2,2,2-trifluoroethyl)azepan-3-yl]carbamate
Sodium hydride (60% dispersion in mineral oil; 39 mg, 0.975 mmol) was added to a solution of tert-butyl [(3R,6S)-6-(2,3-difluorophenyl)-2-thioxoazepan-3-yl]carbamate (202 mg, 0.567 mmol) and 2,2,2-trifluoroethyl trifluoromethanesulfonate (141 μL, 1.131 mmol) in N,N-dimethylformamide at −25° C. After 15 min, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water (2×), brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (0% hexanes→30% ethyl acetate/hexanes) gave the title compound (105 mg). MS 439.1 (M+1).

reactant | Sodium hydride | 0.975 mmol, 39 mg | [H-].[Na+]
reactant | tert-butyl [(3R,6S)-6-(2,3-difluorophenyl)-2-thioxoazepan-3-yl]carbamate | 0.567 mmol, 202 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=S)NC(OC(C)(C)C)=O | C17H22F2N2O2S
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 1.131 mmol, 141 μL | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | tert-Butyl [(3R,6S)-6-(2,3-difluorophenyl)-2-thioxo-1-(2,2,2-trifluoroethyl)azepan-3-yl]carbamate | 105 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CC(F)(F)F)=S)NC(OC(C)(C)C)=O | C19H23F5N2O2S
